US08791107B2
PREPARATION x82: (R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate
To a 2 mL microwave vial were added (R)-5-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate (PREPARATION x81, 148 mg, 0.401 mmol), indole-4-boronic acid (64.6 mg, 0.401 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (16.50 mg, 0.020 mmol). The vial was evacuated and filled with nitrogen. After sealing the vial, dioxane (1600 μL) and saturated NaHCO3 (400 μL) were added. The mixture was then heated in a microwave to 120° C. for 45 minutes. After the mixture was cooled to room temperature, ACN (4 mL) was added and the mixture was filtered by syringe filter. The crude product was purified by preparatory HPLC using a gradient of 20-40% CH3CN (with 0.035% TFA) in H2O (with 0.05% TFA). The collected fractions were pooled, neutralized with NaHCO3, concentrated, and extracted with EtOAc. The combined organics were dried over MgSO4, filtered, and concentrated to give the title compound (48 mg, 27%). ESI-MS m/z [M+H]+ calc'd for C25H31N5O3, 450.25. found 450.3.

reactant | (R)-5-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate | 0.401 mmol, 148 mg | C(C)(=O)OC(C)(CCCN1C=2C=NC(=NC2N2[C@H](C1)COCC2)Cl)C | C17H25ClN4O3
reactant | indole-4-boronic acid | 0.401 mmol, 64.6 mg | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 0.020 mmol, 16.50 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (R)-5-(2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-2-methylpentan-2-yl acetate | 48 mg, 27% | C(C)(=O)OC(C)(CCCN1C=2C=NC(=NC2N2[C@H](C1)COCC2)C2=C1C=CNC1=CC=C2)C | C25H31N5O3
